US08859541B2
E1j) tert-butyl-N-methyl-N-[1-[[5-(7-methyl-2-pyridin-4-ylimidazo[1,2-a]pyridin-3-yl)-6-[2-tri(propan-2-yl)silylethynyl]pyridin-2-yl]amino]-1-oxopropan-2-yl]-carbamate
A mixture of [6-[2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoylamino]-2-[2-tri(propan-2-yl)silylethynyl]pyridin-3-yl]boronic acid D1a (1.5 g, 3.0 mmol), 3-iodo-7-methyl-2-pyridin-4-ylimidazo[1,2-a]pyridine Za (1.3 g, 3.9 mmol), Na2CO3 (0.95 g, 8.9 mmol), Dichlorobis(triphenylphosphine)palladium(II) (209 mg, 0.3 mmol), dioxane (30 ml) and water (5 ml) is stirred under argon atmosphere for 17 h at 70° C. The mixture is diluted with water and extracted with DCM. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by RP HPLC. Yield: 965 mg (49%). HPLC-MS: M+H=667; tR=2.04 min (*Method—3).

reactant | [6-[2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoylamino]-2-[2-tri(propan-2-yl)silylethynyl]pyridin-3-yl]boronic acid | CN(C(C(=O)NC1=CC=C(C(=N1)C#C[Si](C(C)C)(C(C)C)C(C)C)B(O)O)C)C(=O)OC(C)(C)C | C25H42BN3O5Si
reactant | 3-iodo-7-methyl-2-pyridin-4-ylimidazo[1,2-a]pyridine | IC1=C(N=C2N1C=CC(=C2)C)C2=CC=NC=C2 | C13H10IN3
reactant | Na2CO3 | 8.9 mmol, 0.95 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.3 mmol, 209 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 5 ml | O | H2O
product | tert-butyl-N-methyl-N-[1-[[5-(7-methyl-2-pyridin-4-ylimidazo[1,2-a]pyridin-3-yl)-6-[2-tri(propan-2-yl)silylethynyl]pyridin-2-yl]amino]-1-oxopropan-2-yl]-carbamate | C(C)(C)(C)OC(N(C(C(=O)NC1=NC(=C(C=C1)C1=C(N=C2N1C=CC(=C2)C)C2=CC=NC=C2)C#C[Si](C(C)C)(C(C)C)C(C)C)C)C)=O | C38H50N6O3Si
